US07960376B2
Step 2: Preparation 4-(4-chloro-2-methylbutan-2-ylthio)-3-nitrobenzoyl chloride
To a solution of 4-(4-hydroxy-2-methylbutan-2-ylthio)-3-nitrobenzoic acid (3.08 g, 10.8 mmol) in DCE (50 mL) was added thionyl chloride (2.365 mL, 32.4 mmol). The reaction was heated to 70° C. and stirred at that temperature for 1 hour. The solvent was removed under reduced pressure and the resulting oil was used without further purification.

reactant | 4-(4-hydroxy-2-methylbutan-2-ylthio)-3-nitrobenzoic acid | 10.8 mmol, 3.08 g | OCCC(C)(SC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-])C | C12H15NO5S
reactant | thionyl chloride | 32.4 mmol, 2.365 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DCE | 50 mL | ClCCCl | C2H4Cl2
product | 4-(4-chloro-2-methylbutan-2-ylthio)-3-nitrobenzoyl chloride | ClCCC(C)(SC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-])C | C12H13Cl2NO3S
